US04650870
1,1'-Ethylenebis(4-acetyl-3,3,5,5-tetramethyl-2-pipera- zinone)
31.5 grams (0.1 mole) of 1,1'-ethylenebis(3,3,5,5-tetra- methyl-2-piperazinone), prepared according to Example 6,E of U.S. Pat. No. 4,190,571 from N,N'-(2-amino-2-methylpropyl)-e thylenediamine and acetone cyanohydrin, is dissolved in 102 grams (1.0 mole) of acetic anhydride. After three drops of concentrated sulfuric acid are added to the solution, the mixture is heated for four hours at 130° C. and then cooled to room temperature. Methylene chloride (200 ml.) is added to extract the product into an organic layer which is then washed successively with water and with saturated sodium bicarbonate solution and is finally dried over anhydrous magnesium sulfate. The solvent is removed in vacuo and the residual product is recrystallized from toluene to give 30.4 grams of the above-named product as a white solid, melting at 180°-183° C. (sintering at 170° C.).

reactant | 1,1'-ethylenebis(3,3,5,5-tetra- methyl-2-piperazinone) | 0.1 mole, 31.5 grams | C(CN1C(C(NC(C1)(C)C)(C)C)=O)N1C(C(NC(C1)(C)C)(C)C)=O | C18H34N4O2
reactant | N,N'-(2-amino-2-methylpropyl)-e thylenediamine | NC(CNCCN)(C)C | C6H17N3
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
reactant | acetic anhydride | 1.0 mole, 102 grams | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | three drops | S(O)(O)(=O)=O | H2O4S
solvent | Methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1,1'-Ethylenebis(4-acetyl-3,3,5,5-tetramethyl-2-pipera- zinone) | 30.4 grams | C(CN1C(C(N(C(C1)(C)C)C(C)=O)(C)C)=O)N1C(C(N(C(C1)(C)C)C(C)=O)(C)C)=O | C22H38N4O4
